US07902252B2
2.11. Synthesis of 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (2)
The title compound was synthesized from methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (11 mg, 0.06 mmol) and lithium hydroxide monohydrate (10 mg, 0.25 mmol) according to General Procedure 7 (6.8 mg, 67%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.89-2.93 (m, 2H), 2.98-3.02 (m, 2H), 6.89 (s, 1H); LCMS-MS (ESI+) 163.7 (M−H); HPLC (UV=100%).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.06 mmol, 11 mg | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | lithium hydroxide monohydrate | 0.25 mmol, 10 mg | O.[OH-].[Li+]
product | 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | O=C1CCC=2NC(=CC21)C(=O)O | C8H7NO3
